US04316906
A solution of 3.5 g. (0.024 mole) of trans-4-methoxy-L-proline in 50 ml. of water is stirred, cooled to 5° and 3 g. of sodium carbonate are added. This mixture is treated with a solution of 4.0 g. (0.024 mole) of 3-acetylthiopropionyl chloride in 5 ml. of ether during the course of 10 minutes with the intermittent addition of 3 g. of sodium carbonate to maintain the pH at about 8.0. The mixture is stirred in the ice-bath for an additional hour, 25 ml. of water are added and then a solution of 5 ml. of concentrated hydrochloric acid in 25 ml. of water (CO2 evolution). The strongly acid solution is saturated with sodium chloride and extracted with 50 ml. of ethyl acetate (four times). The organic phases are combined, dried (MgSO4), filtered and the solvent evaporated to give 6.0 g. (90%) of colorless syrupy 1-(3-acetylthio-1-oxopropyl)-trans-4-methoxy-L-proline. This acid is dissolved in 25 ml. of ethyl acetate and treated with 4.7 g. of dicyclohexylamine to give a solution which rapidly becomes a solid mass. An additional 15 ml. of ethyl acetate are added and the mixture is digested on a steam bath, cooled and filtered to give 8.7 g. of the dicyclohexylamine salt, m.p. 170°-172°. After crystallization from 60 ml. of acetonitrile the colorless solid weighs 8.3 g. (75%) m.p. 171°-173°; [α]D25 -35° (c, 1% in EtOH).

reactant | trans-4-methoxy-L-proline | 0.024 mole | CO[C@@H]1C[C@H](NC1)C(=O)O | C6H11NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-acetylthiopropionyl chloride | 0.024 mole | C(C)(=O)CCC(=S)Cl | C5H7ClOS
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
reactant | 1-(3-acetylthio-1-oxopropyl)-trans-4-methoxy-L-proline | C(C)(=O)SCCC(=O)N1[C@H](C(=O)O)C[C@H](C1)OC | C11H17NO5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
